2200-01-25 09:25:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo with severe COPD, found down at a social function wheezing,
   cyanotic, agonal breathing.  Brought to OSH where he was intubated,
   placed on pressors.  Pressors have been subsequently weaned off.  Still
   requiring ventilation.  Came to MICU where he has been started on
   steroids.
   24 Hour Events:
 ARTERIAL LINE - START [**2200-1-25**] 05:43 AM
 MULTI LUMEN - START [**2200-1-25**] 05:43 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-1-25**] 08:00 AM
   Other medications:
   levoflox
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-25**] 09:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 67 (61 - 69) bpm
   BP: 116/63(79) {101/57(70) - 118/63(79)} mmHg
   RR: 16 (16 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81 kg
   CVP: 14 (12 - 14)mmHg
   Total In:
                                                                  3,105 mL
   PO:
   TF:
   IVF:
                                                                     75 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    620 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  2,485 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 470 (470 - 470) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 35 cmH2O
   Plateau: 22 cmH2O
   Compliance: 47 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/55/140/28/1
   Ve: 9.6 L/min
   PaO2 / FiO2: 280
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar, Diminished:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   108 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.5 mEq/L
   20 mg/dL
   108 mEq/L
   140 mEq/L
        [image002.jpg]
                             [**2200-1-25**]  03:30 AM
                             [**2200-1-25**]  04:25 AM
                             [**2200-1-25**]  06:09 AM
                             [**2200-1-25**]  07:08 AM
                             [**2200-1-25**]  07:29 AM
   Cr
   0.9
   TCO2
   32
   29
   22
   30
   Glucose
   108
   Other labs: PT / PTT / INR:11.5/22.3/1.0, ALT / AST:123/43, Alk Phos /
   T Bili:58/0.4, Lactic Acid:0.9 mmol/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.8 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**]):  Underlying COPD, heavy
   smokers.  CT somewhat unusual with increased septal thickening that may
   suggest interstitial lung disease or acute infection. (Not much
   fibrosis to suggest IPF).  No clear evidence of PNA, but reasonable to
   treat with levoflox
   for bronchitis associated with COPD.
      -  Continue steroids
   High WBC:  check C. diff since he has been on antibiotics
   (azithromycin) for two months.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2200-1-25**] 05:30 AM
   20 Gauge - [**2200-1-25**] 05:30 AM
   Arterial Line - [**2200-1-25**] 05:43 AM
   Multi Lumen - [**2200-1-25**] 05:43 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2200-01-26 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2200-1-25**] 01:00 PM
   [**1-25**]:
   -once sedation weaned off pressors
   -follows commands off sedation
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2200-1-25**] 09:45 AM
   Vancomycin - [**2200-1-25**] 08:42 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2200-1-25**] 09:44 PM
   Midazolam (Versed) - [**2200-1-26**] 05:45 AM
   Fentanyl - [**2200-1-26**] 05:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-26**] 07:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 86 (65 - 90) bpm
   BP: 154/64(94) {106/50(69) - 154/64(94)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 81.6 kg (admission): 81 kg
    CVP: 11 (7 - 14)mmHg
   +2.8 for stay
   Total In:
                                                                  4,331 mL
                                                                    463 mL
   PO:
   TF:
                                                                    370 mL
                                                                    363 mL
   IVF:
                                                                    871 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                    460 mL
   Urine:
                                                                    985 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,766 mL
                                                                      3 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 726 (726 - 726) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 11
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   Compliance: 47 cmH2O/mL
   SpO2: 93%
   ABG: 7.34/60/89.[**Numeric Identifier 299**]/31/3
   Ve: 7.6 L/min
   PaO2 / FiO2: 223
   Physical Examination
   NAD, intubated, alert & oriented
   CTA
   S1 S2
   Soft NT ND
   Warm skin and extremities, moving all 4
   Labs / Radiology
   149 K/uL
   12.5 g/dL
   156 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.5 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   37.5 %
   12
        [image002.jpg]
   - prior WBC 30
   -flu/viral DFA negative
   -GPCs in pairs on his sputum culture, started Vanco
   -trend troponins 0.06--0.11--0.05
   CTA torso final read: 1. Pulmonary edema. 2. Mediastinal and hilar
   lymph nodes are borderline enlarged but likely reactive. 3. Right
   adrenal myelolipoma. 4. Renal hypodensities some cysts some too small
   to characterize. Correlation with prior imaging or renal ultrasound in
   6 months is recommended for further evaluation.
   CXR pending
                             [**2200-1-25**]  04:25 AM
                             [**2200-1-25**]  06:09 AM
                             [**2200-1-25**]  07:08 AM
                             [**2200-1-25**]  07:29 AM
                             [**2200-1-25**]  01:16 PM
                             [**2200-1-25**]  03:53 PM
                             [**2200-1-25**]  04:47 PM
                             [**2200-1-25**]  09:29 PM
                             [**2200-1-26**]  04:28 AM
                             [**2200-1-26**]  05:06 AM
   WBC
   12.0
   Hct
   37.5
   Plt
   149
   Cr
   0.9
   0.9
   TropT
   0.11
   0.05
   TCO2
   29
   22
   30
   31
   30
   32
   34
   Glucose
   108
   156
   Other labs: PT / PTT / INR:11.0/22.5/0.9, CK / CKMB /
   Troponin-T:54//0.05, ALT / AST:87/20, Alk Phos / T Bili:56/0.4, Lactic
   Acid:1.0 mmol/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   65 yo M with h/o COPD, tobacco use, found unresponsive and cyanotic
   while sitting on toilet after days of progressive SOB; intubated at
   [**Hospital3 **] (first attempted by EMS), now off pressors.
   # Respiratory arrest.  Etiology uncertain. PE negative on CTA (but +
   for pulmonary edema), troponins peaked yesterday (not significantly
   elevated), seizure and pneumonia unlikely by hx and PE. COPD
   exacerbation possible.
   - Will check RSBI, spontaneous breathing trial
 wean sedation and
   extubated
   - Ordered Lasix bolus for diuresis to prepare for extubation
   - Will give 10mg IV Hydralazine to optimize blood pressure (has been
   hypertensive) prior to extubation
   - Albuterol Q2H, Q1H PRN
    - Ipratroprium Q4H
   - Solumedrol 125mg IV Q8H
 will taper today
   - Sputum culture showed GPC in gram stain so Levofloxin broadened to
   Vancomycin
   - AM EKG
   # Hypotension: Unclear etiology.  Sedation? Off pressors now. CVP 11.
    - Follow-up cultures
    - Echo read pending
 will follow-up
   # Leukocytosis: Reactive vs infectious process.
    - Cultures
    - Final read imaging - chest, abdomen, pelvis
   # COPD: Unclear level of control or severity.  On nocturnal home O2,
   daily Azithromycin for last 2 months. Saw first MD only 2 months ago
   after years, then 2 weeks ago for cough started on Clarithomycin, then
   steroid burst 1 week ago.
    - Treat for acute exacerbation as above
    - Obtain further history from patient and PCP
    [**Name Initial (PRE) **] [**Name9 (PRE) 3581**] cessation
   # FEN: IVF with CVP monitor, replete electrolytes PRN, TF in AM
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV, RIJ
   16 Gauge - [**2200-1-25**] 05:30 AM
   Arterial Line - [**2200-1-25**] 05:43 AM
   Multi Lumen - [**2200-1-25**] 05:43 AM
   # Communication: Patient
   # Code:  Full (spoke with [**Name (NI) 2130**] [**Name (NI) 11744**], wife agrees to ICU consent)
   # Disposition: ICU pending clinical improvement

2200-01-26 09:55:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with COPD, admitted with severe COPD exacerbation, and
   respiratory failure.  has improved.  more awake, tolerating PSV.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2200-1-25**] 01:00 PM
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2200-1-25**] 08:42 PM
   Levofloxacin - [**2200-1-26**] 07:30 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2200-1-26**] 05:45 AM
   Heparin Sodium (Prophylaxis) - [**2200-1-26**] 07:30 AM
   Furosemide (Lasix) - [**2200-1-26**] 07:30 AM
   Midazolam (Versed) - [**2200-1-26**] 07:45 AM
   Other medications:
   medrol 125mg q8h
   SSI
   nicotine
   vanco
   chlo
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-26**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 87 (65 - 91) bpm
   BP: 165/74(103) {106/50(69) - 165/76(103)} mmHg
   RR: 11 (10 - 22) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.5 kg (admission): 81 kg
   CVP: 12 (7 - 18)mmHg
   Total In:
                                                                  4,331 mL
                                                                    661 mL
   PO:
   TF:
                                                                    370 mL
                                                                    378 mL
   IVF:
                                                                    871 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  1,565 mL
                                                                  1,460 mL
   Urine:
                                                                    985 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,766 mL
                                                                   -799 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 470 (470 - 470) mL
   Vt (Spontaneous): 736 (726 - 736) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 21
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 93%
   ABG: 7.34/60/89.[**Numeric Identifier 299**]/31/3
   Ve: 9.6 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   149 K/uL
   156 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.5 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   37.5 %
   12.0 K/uL
        [image002.jpg]
                             [**2200-1-25**]  04:25 AM
                             [**2200-1-25**]  06:09 AM
                             [**2200-1-25**]  07:08 AM
                             [**2200-1-25**]  07:29 AM
                             [**2200-1-25**]  01:16 PM
                             [**2200-1-25**]  03:53 PM
                             [**2200-1-25**]  04:47 PM
                             [**2200-1-25**]  09:29 PM
                             [**2200-1-26**]  04:28 AM
                             [**2200-1-26**]  05:06 AM
   WBC
   12.0
   Hct
   37.5
   Plt
   149
   Cr
   0.9
   0.9
   TropT
   0.11
   0.05
   TCO2
   29
   22
   30
   31
   30
   32
   34
   Glucose
   108
   156
   Other labs: PT / PTT / INR:11.0/22.5/0.9, CK / CKMB /
   Troponin-T:54//0.05, ALT / AST:87/20, Alk Phos / T Bili:56/0.4, Lactic
   Acid:1.0 mmol/L, Ca++:9.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Respiratory failure:  looks much better today.  breathing comfortably
   COPD exacerbation improved.
   HTN/diastolic dysfunction:  admission CT also had evidence of pulmonary
   edema.  Will aggressively treat BP with hydralizine.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2200-1-25**] 05:30 AM
   Arterial Line - [**2200-1-25**] 05:43 AM
   Multi Lumen - [**2200-1-25**] 05:43 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2200-01-27 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-26**]:
   -extubated
   -Echo: inferior and infero-lateral akinesis (prior myocardial
   infarction), EF 55%
   -captopril 25 mg TID for hypertension
   -ativan x 1 for nerves at 2100
   -lasix 20 mg in AM, repeat dose in PM, diuresed to -2.5L
   Allergies:
   Last dose of Antibiotics:
   Levofloxacin - [**2200-1-26**] 07:30 AM
   Vancomycin - [**2200-1-26**] 09:01 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2200-1-26**] 07:45 AM
   Hydralazine - [**2200-1-26**] 10:00 AM
   Furosemide (Lasix) - [**2200-1-26**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2200-1-27**] 12:00 AM
   Lorazepam (Ativan) - [**2200-1-27**] 04:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-27**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 68 (64 - 107) bpm
   BP: 147/64(87) {125/58(83) - 187/101(134)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.5 kg (admission): 81 kg
   Height: 70 Inch
    CVP: 18 (12 - 18)mmHg
   Total In:
                                                                  1,114 mL
                                                                     73 mL
   PO:
   TF:
                                                                    378 mL
   IVF:
                                                                    737 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  3,670 mL
                                                                    530 mL
   Urine:
                                                                  3,670 mL
                                                                    530 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,556 mL
                                                                   -457 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 736 (736 - 736) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.47/47/70/35/8
   Ve: 9.6 L/min
   PaO2 / FiO2: 175
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   12.7 g/dL
   132 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.1 mEq/L
   26 mg/dL
   100 mEq/L
   139 mEq/L
   37.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2200-1-25**]  01:16 PM
                             [**2200-1-25**]  03:53 PM
                             [**2200-1-25**]  04:47 PM
                             [**2200-1-25**]  09:29 PM
                             [**2200-1-26**]  04:28 AM
                             [**2200-1-26**]  05:06 AM
                             [**2200-1-26**]  11:19 AM
                             [**2200-1-26**]  02:52 PM
                             [**2200-1-27**]  03:45 AM
                             [**2200-1-27**]  04:03 AM
   WBC
   12.0
   14.7
   Hct
   37.5
   37.6
   Plt
   149
   146
   Cr
   0.9
   0.8
   0.9
   TropT
   0.05
   TCO2
   31
   30
   32
   34
   33
   35
   Glucose
   156
   145
   132
   Other labs: PT / PTT / INR:11.0/22.5/0.9, CK / CKMB /
   Troponin-T:54//0.05, ALT / AST:87/20, Alk Phos / T Bili:56/0.4, Lactic
   Acid:1.0 mmol/L, Ca++:10.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   Assessment and Plan
   65 yo M with h/o COPD, tobacco use, found unresponsive and cyanotic
   while sitting on toilet after days of progressive SOB; intubated at
   [**Hospital3 **] (first attempted by EMS), now off pressors.
   # Respiratory arrest.  Etiology uncertain. PE negative on CTA (but +
   for pulmonary edema), troponins peaked yesterday (not significantly
   elevated), seizure and pneumonia unlikely by hx and PE. COPD
   exacerbation possible.
   - Will check RSBI, spontaneous breathing trial
 wean sedation and
   extubated
   - Ordered Lasix bolus for diuresis to prepare for extubation
   - Will give 10mg IV Hydralazine to optimize blood pressure (has been
   hypertensive) prior to extubation
   - Albuterol Q2H, Q1H PRN
    - Ipratroprium Q4H
   - Solumedrol 125mg IV Q8H
 will taper today
   - Sputum culture showed GPC in gram stain so Levofloxin broadened to
   Vancomycin
   - AM EKG
   # Hypotension: Unclear etiology.  Sedation? Off pressors now. CVP 11.
    - Follow-up cultures
    - Echo read pending
 will follow-up
   # Leukocytosis: Reactive vs infectious process.
    - Cultures
    - Final read imaging - chest, abdomen, pelvis
   # COPD: Unclear level of control or severity.  On nocturnal home O2,
   daily Azithromycin for last 2 months. Saw first MD only 2 months ago
   after years, then 2 weeks ago for cough started on Clarithomycin, then
   steroid burst 1 week ago.
    - Treat for acute exacerbation as above
    - Obtain further history from patient and PCP
    [**Name Initial (PRE) **] [**Name9 (PRE) 3581**] cessation
   # FEN: IVF with CVP monitor, replete electrolytes PRN, TF in AM
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV, RIJ
   16 Gauge - [**2200-1-25**] 05:30 AM
   Arterial Line - [**2200-1-25**] 05:43 AM
   Multi Lumen - [**2200-1-25**] 05:43 AM
   # Communication: Patient
   # Code:  Full (spoke with [**Name (NI) 2130**] [**Name (NI) 11744**], wife agrees to ICU consent)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2200-1-25**] 05:30 AM
   Arterial Line - [**2200-1-25**] 05:43 AM
   Multi Lumen - [**2200-1-25**] 05:43 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-01-27 10:32:00 Physician Attending Progress Note
ATTENDING
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo with severe COPD, found down at a social function wheezing,
   cyanotic, agonal breathing.  Brought to OSH where he was intubated,
   placed on pressors.  Pressors have been subsequently weaned off.
   Extubated yesterday.
   24 Hour Events:
   Extubated
   Diuresed about -2.5L.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2200-1-27**] 10:15 AM
   Levofloxacin - [**2200-1-27**] 10:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2200-1-26**] 09:00 PM
   Lorazepam (Ativan) - [**2200-1-27**] 04:40 AM
   Heparin Sodium (Prophylaxis) - [**2200-1-27**] 07:39 AM
   Other medications:
   sqh, bowel reg, levoflox, sqi, nicoderm, vanco, pred 60, atrovent,
   albuterol, captopril, ativan prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-27**] 10:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.9
C (96.7
   HR: 80 (64 - 106) bpm
   BP: 163/74(103) {125/58(83) - 187/101(134)} mmHg
   RR: 16 (12 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.5 kg (admission): 81 kg
   Height: 70 Inch
   CVP: 18 (14 - 18)mmHg
   Total In:
                                                                  1,114 mL
                                                                    513 mL
   PO:
                                                                     60 mL
   TF:
                                                                    378 mL
   IVF:
                                                                    737 mL
                                                                    453 mL
   Blood products:
   Total out:
                                                                  3,670 mL
                                                                    860 mL
   Urine:
                                                                  3,670 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,556 mL
                                                                   -347 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.47/47/70/35/8
   PaO2 / FiO2: 175
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   , Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   12.7 g/dL
   146 K/uL
   132 mg/dL
   0.9 mg/dL
   35 mEq/L
   4.1 mEq/L
   26 mg/dL
   100 mEq/L
   139 mEq/L
   37.6 %
   14.7 K/uL
        [image002.jpg]
                             [**2200-1-25**]  01:16 PM
                             [**2200-1-25**]  03:53 PM
                             [**2200-1-25**]  04:47 PM
                             [**2200-1-25**]  09:29 PM
                             [**2200-1-26**]  04:28 AM
                             [**2200-1-26**]  05:06 AM
                             [**2200-1-26**]  11:19 AM
                             [**2200-1-26**]  02:52 PM
                             [**2200-1-27**]  03:45 AM
                             [**2200-1-27**]  04:03 AM
   WBC
   12.0
   14.7
   Hct
   37.5
   37.6
   Plt
   149
   146
   Cr
   0.9
   0.8
   0.9
   TropT
   0.05
   TCO2
   31
   30
   32
   34
   33
   35
   Glucose
   156
   145
   132
   Other labs: PT / PTT / INR:11.0/22.5/0.9, CK / CKMB /
   Troponin-T:54//0.05, ALT / AST:87/20, Alk Phos / T Bili:56/0.4, Lactic
   Acid:1.0 mmol/L, Ca++:10.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR: ?smaller azygous.  Extubated.
   Assessment and Plan
 HYPERTENSION, BENIGN
 ANXIETY
 HYPOXEMIA
 LIVER FUNCTION ABNORMALITIES
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 TOBACCO USE, CURRENT
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 LEUKOCYTOSIS
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   65-year-old man with respiratory arrest, which appears to have been
   mostly related to severe COPD exacerbated by acute ?systolic heart
   failure.  He has improved remarkably and is ready for transfer to the
   floor.
   COPD exacerbation
   Continue prednisone
   Continue standing bronchodilators
   Pulmonary consult on call-out to the floor
   Will definitely need chronic controller meds and pulmonary follow-up.
   Coronary artery disease
   Inferior Q waves and confirmatory echo
   Add aspirin
   Check lipids
   Consider beta blockade/ACEI etc. as COPD exacerbation improves
   Definitely needs outpatient followup and further risk stratification
   Take out CVL and art line
   To floor
   Other issues as per ICU team note
   ICU Care
   Nutrition: ADAT
   Glycemic Control:
   Lines:
   16 Gauge - [**2200-1-25**] 05:30 AM
   Arterial Line - [**2200-1-25**] 05:43 AM
   Multi Lumen - [**2200-1-25**] 05:43 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:  Discussed with patient
   Code status: Full code
   Disposition :Transfer to floor

2200-01-29 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt. re-admitted to ICU yesterday for acute respiratory distress and
   intubated on the floor.  Transferred to the unit on vent.  Bronch
   showed mucus plugs, was started on steroids.
   Did well overnight, on minimal vent settings without acute issues.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2200-1-27**] 10:15 AM
   Vancomycin - [**2200-1-28**] 09:00 PM
   Ciprofloxacin - [**2200-1-28**] 09:56 PM
   Cefipime - [**2200-1-29**] 02:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Propofol - [**2200-1-28**] 09:20 AM
   Midazolam (Versed) - [**2200-1-28**] 10:00 AM
   Famotidine (Pepcid) - [**2200-1-28**] 09:56 PM
   Heparin Sodium (Prophylaxis) - [**2200-1-29**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-29**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 74 (55 - 95) bpm
   BP: 137/56(82) {94/41(-10) - 140/62(88)} mmHg
   RR: 11 (9 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.5 kg (admission): 76.5 kg
   Height: 70 Inch
             Total In:
                                                                  2,745 mL
                                                                    243 mL
   PO:
             TF:
                                                                     85 mL
                                                                     22 mL
   IVF:
                                                                  2,430 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                  1,960 mL
                                                                    540 mL
   Urine:
                                                                  1,960 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    785 mL
                                                                   -297 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 862 (622 - 862) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 16
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.38/57/117/34/7
   Ve: 7.1 L/min
   PaO2 / FiO2: 234
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   121 K/uL
   12.2 g/dL
   138 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.6 mEq/L
   29 mg/dL
   99 mEq/L
   137 mEq/L
   36.5 %
   10.2 K/uL
        [image002.jpg]
                             [**2200-1-26**]  04:28 AM
                             [**2200-1-26**]  05:06 AM
                             [**2200-1-26**]  11:19 AM
                             [**2200-1-26**]  02:52 PM
                             [**2200-1-27**]  03:45 AM
                             [**2200-1-27**]  04:03 AM
                             [**2200-1-28**]  12:49 PM
                             [**2200-1-28**]  05:23 PM
                             [**2200-1-29**]  03:20 AM
                             [**2200-1-29**]  03:29 AM
   WBC
   12.0
   14.7
   10.2
   Hct
   37.5
   37.6
   36.5
   Plt
   149
   146
   121
   Cr
   0.9
   0.8
   0.9
   0.9
   TCO2
   34
   33
   35
   32
   34
   35
   Glucose
   156
   145
   132
   138
   Other labs: PT / PTT / INR:11.0/22.5/0.9, CK / CKMB /
   Troponin-T:54//0.05, ALT / AST:110/21, Alk Phos / T Bili:51/0.9, Lactic
   Acid:0.5 mmol/L, Albumin:3.6 g/dL, LDH:157 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   65 yo M with h/o COPD, tobacco use, found unresponsive and cyanotic
   while sitting on toilet after several days of progressive SOB;
   intubated at [**Hospital3 **] (first attempted by EMS); extubated the
   day following admission and transferred to the regular medical floor on
   [**1-27**] now transferred back to the ICU with new hypoxia and hypercarbic
   respiratory failure.
   # Hypercarbic respiratory failure.  Likely due to mucous plugging as
   seen on bronchoscopy in combination with COPD exacerbation, likelky
   worsened by high flow oxygen with resultant CO2 retention.  Intubated
   on the medical floor without incident.  No e/o new ischemia on EKG
   though did have some enzyme leak likely [**12-31**] strain on admission.
    - Hypotensive on Propofol on arrival, will change to Fentanyl/Midazo
   for tolerating ventilator
    - Mechanical ventilation, AC for now with increased minute ventilation
   to decrease CO2 to approximately 50
    - Albuterol Q4H, Q2H PRN
    - Ipratroprium Q6H
    - Solumedrol 80 IV Q8
    - Calcium Gluconate, acid suppression
    - Follow-up BAL and sputum culture
    - Repeat EKG
    - Levofloxacin IV, Cefepime IV, Vancomycin IV with plan to d/c if BAL
   negative in 72 hours ([**2200-1-31**])
    - Humidified vent for improved airway secretion movement
    - Post-extubation consider chest PT, [**Name (NI) 11783**]
   # Hypotension: Suspect medication effect as primary source (Lasix,
   Diltiazem, Propofol, Etomidate, Succinate).  Could also consider septic
   physiology with worsening PNA vs breath-stacking and increased PEEP
   with poor vascular return.  Echo with some dysfuction and posterior
   akinesis.
    - Bolus 500cc
    - Calcium Gluconate for Diltiazem
    - If worsens, check for auto-PEEP vs take briefly off ventilator
    - Follow-up cultures
   # COPD: Unclear level of control or severity.  Also on daily
   Azithromycin for last 2 months.
    - Treat for acute exacerbation as above
    - Obtain further history from PCP
    [**Name Initial (PRE) **] [**Name9 (PRE) 3581**] cessation
   # Anemia: Stable since the day following admission at Hct 37.  No
   obvious source of bleeding
    - Trend
   # Tobacco Use: Active use.
    - Daily patch.
   # FEN: Hold IVF for now, replete electrolytes PRN, TF with NutrenPulm
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV, Left A-line
   # Communication: Patient
   # Code:  Full (spoke with [**Name (NI) 2130**] [**Name (NI) 11744**], wife agrees to ICU consent)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2200-1-28**] 11:00 AM
   16 Gauge - [**2200-1-28**] 01:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2200-01-30 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt. extubated yesterday and did well.  Maintained on nebs, O2 weaned
   down, no overnight events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2200-1-27**] 10:15 AM
   Vancomycin - [**2200-1-28**] 09:00 PM
   Ciprofloxacin - [**2200-1-28**] 09:56 PM
   Cefipime - [**2200-1-29**] 02:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2200-1-29**] 09:44 AM
   Heparin Sodium (Prophylaxis) - [**2200-1-29**] 05:53 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2200-1-30**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**01**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.4
   HR: 74 (64 - 105) bpm
   BP: 136/68(83) {123/59(74) - 154/76(93)} mmHg
   RR: 16 (13 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 82.5 kg (admission): 76.5 kg
   Height: 70 Inch
                  Total In:
                                                                    537 mL
                                                                    240 mL
   PO:
                  240 mL
   TF:
                                                                     22 mL
   IVF:
                                                                    515 mL
   Blood products:
   Total out:
                                                                  2,090 mL
                                                                    420 mL
   Urine:
                                                                  2,090 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,553 mL
                                                                   -180 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 713 (713 - 713) mL
   PS : 5 cmH2O
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: ///34/
   Ve: 9.1 L/min
   Physical Examination
   Gen:  NAD, breathing comfortably
   PULM:  scattered exp. wheezes, good air entry
   CV: RRR
   Abd:  soft NT/ND
   Peripheral Vascular: pulses intact
   Skin:  warm, dry, no rash
   Neurologic: A&Ox3, no focal defecits
   Labs / Radiology
   155 K/uL
   13.5 g/dL
   144 mg/dL
   0.9 mg/dL
   34 mEq/L
   4.4 mEq/L
   29 mg/dL
   100 mEq/L
   137 mEq/L
   39.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2200-1-26**]  05:06 AM
                             [**2200-1-26**]  11:19 AM
                             [**2200-1-26**]  02:52 PM
                             [**2200-1-27**]  03:45 AM
                             [**2200-1-27**]  04:03 AM
                             [**2200-1-28**]  12:49 PM
                             [**2200-1-28**]  05:23 PM
                             [**2200-1-29**]  03:20 AM
                             [**2200-1-29**]  03:29 AM
                             [**2200-1-30**]  04:27 AM
   WBC
   14.7
   10.2
   10.7
   Hct
   37.6
   36.5
   39.4
   Plt
   146
   121
   155
   Cr
   0.8
   0.9
   0.9
   0.9
   TCO2
   34
   33
   35
   32
   34
   35
   Glucose
   145
   132
   138
   144
   Other labs: PT / PTT / INR:11.0/22.5/0.9, CK / CKMB /
   Troponin-T:54//0.05, ALT / AST:110/21, Alk Phos / T Bili:51/0.9, Lactic
   Acid:0.5 mmol/L, Albumin:3.6 g/dL, LDH:157 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   65 yo M with h/o COPD, tobacco use, found unresponsive and cyanotic
   while sitting on toilet after several days of progressive SOB;
   intubated at [**Hospital3 **] (first attempted by EMS); extubated the
   day following admission and transferred to the regular medical floor on
   [**1-27**] now transferred back to the ICU with new hypoxia and hypercarbic
   respiratory failure.
   # Hypercarbic respiratory failure.  Likely due to mucous plugging as
   seen on bronchoscopy in combination with COPD exacerbation, likely
   worsened by high flow oxygen with resultant CO2 retention. Also, likely
   contribution of volume overload. Low suspicion for PNA currently, but
   will continue to follow WBC, fever. Currently extubated, tolerating
   facemask well.
   - Albuterol Q4H, Q2H PRN
    - Ipratroprium Q6H
    - Solumedrol 80 IV Q8
   - Start spireva today
   - Can start Mucinex to mobilize secretions
   - Consider starting Advair in future
    - Calcium Gluconate, acid suppression
    - Follow-up BAL and sputum culture
   - Levofloxacin 750 mg X 5 days total
    - Will d/c cipro, cefepime, vanc given low suspicion for PNA.
   # Hypertension:  Has resolved, few hypertensive episodes in setting of
   anxiety.
   - Will start 0.5 mg Ativan q8 PRN
   # COPD: Unclear level of control or severity.  Also on daily
   Azithromycin for last 2 months.
    - Treat for acute exacerbation as above
    - Obtain further history from PCP
    [**Name Initial (PRE) **] [**Name9 (PRE) 3581**] cessation
   # Anemia: Stable since the day following admission at Hct 37.  No
   obvious source of bleeding
    - Trend
   # Tobacco Use: Active use.
    - Daily patch.
   # FEN: Hold IVF for now, replete electrolytes PRN
   # Prophylaxis: Subcutaneous heparin
   # Access: PIV, Left A-line, will d/c today
   # Communication: Patient
   # Code:  Full (spoke with [**Name (NI) 2130**] [**Name (NI) 11744**], wife agrees to ICU consent)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2200-1-28**] 01:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: